US08648066B2
(2S)-3-[(2-amino-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)sulfinyl]-2-methylpropan-1-ol.
Prepared according to the method of example 5 by using (2S)-3-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylpropan-1-ol (reagent preparation 41) and {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.42 (s, 1H), 8.36 (br, 1H), 8.02 (br, 1H), 7.93 (d, 1H), 7.52 (br, 1H), 7.40 (d, 1H), 7.08 (m, 2H), 7.01 (d, 1H), 5.03 (s, 2H), 4.43 (m, 2H), 4.22 (m, 2H), 3.90 (s, 3H), 3.64 (dd, 0.5H), 3.57 to 3.46 (m, 1.5H), 3.40 (dd, 0.5H), 3.14 (dd, 0.5H), 3.01 (dd, 0.5H), 2.82 (dd, 0.5H), 2.15 (m, 1H), 1.12 (dd, 3H); MS (EI) for C27H29N5O4S: 520 (MH+).

reactant | (2S)-3-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylpropan-1-ol | NC1=NC=C(C=C1S(=O)C[C@H](CO)C)Br | C9H13BrN2O2S
reactant | {4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | COC1=CC=C2C(=NC=NC2=C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C18H18BN3O4
product | (2S)-3-[(2-amino-5-{4-[7-(methyloxy)quinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-3-yl)sulfinyl]-2-methylpropan-1-ol | NC1=NC=C(C=C1S(=O)C[C@H](CO)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC3=CC(=CC=C23)OC)C1 | C27H29N5O4S
